US09120749B2
1-{6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[6-(piperazin-1-yl)pyridin-3-ylamino]quinolin-3-yl}butan-1-one
Following general procedure A-2, tert-butyl 4-{5-[3-butyryl-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-4-ylamino]pyridin-2-yl}piperazine-1-carboxylate (0.144 mmol) was reacted with TFA (2 mL) to afford the desired product (39 mg, 51% over two steps) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.29 (s, 1H), 8.29 (d, J=2.7 Hz, 1H), 8.20 (dd, J=8.8, 2.0 Hz, 1H), 8.03-7.95 (m, 2H), 7.74 (dd, J=8.8, 2.7 Hz, 1H), 7.16 (d, J=9.0 Hz, 1H), 7.11-7.02 (m, 2H), 3.94 (t, J=5.3 Hz, 4H), 3.37 (t, J=5.3 Hz, 4H), 3.19 (t, J=7.2 Hz, 2H), 1.87-1.76 (m, 2H), 1.11-1.04 (t, J=7.2 Hz, 3H); ESI MS m/z 520 [C28H27ClFN5O2+H]+; HPLC>99% (AUC), tR=10.99 min.

reactant | tert-butyl 4-{5-[3-butyryl-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-4-ylamino]pyridin-2-yl}piperazine-1-carboxylate | 0.144 mmol | C(CCC)(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=C(C(=C1)F)O)Cl | C33H35ClFN5O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-{6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[6-(piperazin-1-yl)pyridin-3-ylamino]quinolin-3-yl}butan-1-one | 39 mg, 51% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(CCC)=O)NC=1C=NC(=CC1)N1CCNCC1 | C28H27ClFN5O2
